* Z:\home\bean\RadioNotes\class_e_10mhz_opt2_real_components.asc
Vbattery N001 0 12
L1 N001 N002 3.7389µH
C1 N002 0 350pF
C2 N003 N002 93pF
L2 N003 N004 373.89nH
RLoad N004 0 3.1
M1 N002 N006 0 0 RD16HHF1
Vgen2 N005 0 PULSE(0 3.3 0 1n 1n 17.81n 35.62n) Rser=330
R1 N007 0 1k
R3 N006 N007 3.3k
XU1 N005 N007 N006 N001 0 LT1818
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.mos
.model MySwitch SW(Ron= .0003250389 Roff=10000 Vt=3.5 Vh=0)
.tran 0 30u 25u 100p startup
* ClassE - www.TonneSoftware.com
.model RD16HHF1 VDMOS(Rg=987m Rd=0m Rs=111m Vto=3.19 Kp=0.495 Lambda=0 mtriode=0.804 subthres=2.37e-02 Cgdmax=11.6p Cgdmin=1.64p Cgs=44.9p Cjo=73.1p M=0.297 Vj=0.839)
* preamp, using a very high slew rate op-amp
* this is needed to amplify the 3.3V square wave to 12V
* actual Class E amplifier
.lib LTC2.lib
.backanno
.end
